US07560558B2
Compound 406: 3-(7-Benzyloxy-6-methoxy-quinolin-4-yloxy)-2-methyl-[1,6]naphthyridine
3-Hydroxy-2-methyl-[1,6]naphthyridine (400 mg), 7-benzyloxy-4-chloro-6-methoxyquinoline (2.25 g), and 4-dimethylaminopyridine (915 mg) were suspended in o-dichlorobenzene (8 ml), and the suspension was stirred at 140° C. for 4 hr. The reaction solution was cooled to room temperature, water was then added to the reaction solution, and the mixture was extracted with chloroform. The chloroform layer was washed with saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by column chromatography using chloroform-methanol to give the title compound (597 mg, yield 56%).

reactant | 3-Hydroxy-2-methyl-[1,6]naphthyridine | 400 mg | OC=1C(=NC2=CC=NC=C2C1)C | C9H8N2O
reactant | 7-benzyloxy-4-chloro-6-methoxyquinoline | 2.25 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)Cl)OC | C17H14ClNO2
reactant | water | O | H2O
catalyst | 4-dimethylaminopyridine | 915 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | o-dichlorobenzene | 8 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 3-(7-Benzyloxy-6-methoxy-quinolin-4-yloxy)-2-methyl-[1,6]naphthyridine | 597 mg, yield 56% | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC=1C(=NC2=CC=NC=C2C1)C)OC | C26H21N3O3
